US06229023B1
A mixture of 3mmol of 1-octen-3-ol, 15mmol of benzhydrol, 0.3 mmol of N-hydroxyphthalimide, 0.0015 mmol of cobalt (II) acetate, 0.6 mmol of hexafluoroacetone trihydrate, and 3 ml of trifluoromethylbenzene was stirred at 60° C. under an oxygen atmosphere (1 atm) for 24 hours. Gas chromatographic analysis of products in a reaction mixture revealed that 1-octen-3-ol was converted, at a rate of 43%, into 1,2-epoxy-3-octanol (yield: 40%).

reactant | 1-octen-3-ol | 3mmol | C=CC(CCCCC)O | C8H16O
reactant | benzhydrol | 15mmol | C(C1=CC=CC=C1)(C1=CC=CC=C1)O | C13H12O
reactant | N-hydroxyphthalimide | 0.3 mmol | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | hexafluoroacetone trihydrate | 0.6 mmol | O.O.O.FC(C(=O)C(F)(F)F)(F)F
reactant | trifluoromethylbenzene | 3 ml | FC(F)(F)C1=CC=CC=C1 | C7H5F3
catalyst | cobalt (II) acetate | 0.0015 mmol | C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
product | 1,2-epoxy-3-octanol | yield: 40% | O1CC1C(CCCCC)O | C8H16O2
